US03984562
A mixture of 5 g. of 7-benzoyloxy-2,3,5,10,11,11a-hexahydro-10-[3-(1-pyrrolidinyl)propionyl]-1H-pyrrolo[2,1-c] [1,4]benzodiazepine, 250 ml. of ethanol and 2 g. of 10% palladium-on-carbon catalyst is shaken in a Parr hydrogenator under about 3 atmospheres of hydrogen pressure until hydrogen uptake is complete. The catalyst is filtered off and the mother liquor is concentrated and 2,3,5,10,11,11a-hexahydro-7-hydroxy-10-[3-(1-pyrrolidinyl)propionyl]-1H-pyrrolo[2,1-c] [1,4]benzodiazepine is obtained.

reactant | 7-benzoyloxy-2,3,5,10,11,11a-hexahydro-10-[3-(1-pyrrolidinyl)propionyl]-1H-pyrrolo[2,1-c] [1,4]benzodiazepine | C(C1=CC=CC=C1)(=O)OC=1C=CC2=C(CN3C(CN2C(CCN2CCCC2)=O)CCC3)C1 | C26H31N3O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2,3,5,10,11,11a-hexahydro-7-hydroxy-10-[3-(1-pyrrolidinyl)propionyl]-1H-pyrrolo[2,1-c] [1,4]benzodiazepine | OC=1C=CC2=C(CN3C(CN2C(CCN2CCCC2)=O)CCC3)C1 | C19H27N3O2
